US04720500
The procedure is analogous to that described in Example 1, but starting with 3,4-dichlorobenzoic acid (15.3 g), N,N'-carbonyldiimidazole (12.9 g) and 2-amino-7-chloro-1,8-naphthyridine (8.9 g). The product obtained by precipitation in water (17.6 g; m.p. 228° C.) is dissolved in boiling ethanol (900 cc). After cooling for 2 hours at 4° C., the crystallized solid is separated by filtration, washed with isopropyl ether (2×30 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-(7-Chloro-1,8-naphthyridin-2-yl)-3,4-dichlorobenzamide (9.2 g), m.p. 230° C., is obtained.

reactant | 3,4-dichlorobenzoic acid | 15.3 g | ClC=1C=C(C(=O)O)C=CC1Cl | C7H4Cl2O2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 8.9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | ethanol | 900 cc | C(C)O | C2H6O
solvent | water | 17.6 g | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-3,4-dichlorobenzamide | 9.2 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=C(C=C1)Cl)Cl)=O | C15H8Cl3N3O
